US05500427
a) Methyl 2-valerylaminothiophene-3-carboxylate
Valeryl chloride (1.3 g) was added to a solution of methyl 2-aminothiophene-3-carboxylate (1.6 g) [Y. Kuwada et al. Chem. Abst. 82, 156252(1975)] and triethylamine (1.2 g) in dichloroethane (20 ml) under ice-cooling. The mixture was stirred for two hours. The reaction mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure. The residue was purified by column chromatography on silica gel to afford the title compound as a colorless oil (2.3 g, 96%).

reactant | Valeryl chloride | 1.3 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | methyl 2-aminothiophene-3-carboxylate | 1.6 g | NC=1SC=CC1C(=O)OC | C6H7NO2S
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | Methyl 2-valerylaminothiophene-3-carboxylate | 2.3 g, 96% | C(CCCC)(=O)NC=1SC=CC1C(=O)OC | C11H15NO3S
